US08030302B2
2,4-Dibromo-5-(2-fluoro-4-nitrophenoxy)benzaldehyde (13.0 g, 31.0 mmol) is refluxed with methylhydrazine (4.3 g, 93 mmol) in THF (130 mL) for 2 hours. The reaction is quenched with water (150 mL) and extracted with MTBE (2×150 mL). The organic layer is washed with saturated sodium chloride aqueous solution (2×150 mL), dried with anhydrous sodium sulfate, and concentrated to obtain a solid. The crude solid is recrystallized in EtOAc/hexane to obtain 1-(2,4-dibromo-5-(2-fluoro-4-nitrophenoxy)benzylidene)-2-methylhydrazine as a yellow solid (10.6 g, 76.7% yield). MS (m/z): 447.9 (M+H).

reactant | 2,4-Dibromo-5-(2-fluoro-4-nitrophenoxy)benzaldehyde | 31.0 mmol, 13.0 g | BrC1=C(C=O)C=C(C(=C1)Br)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C13H6Br2FNO4
reactant | methylhydrazine | 93 mmol, 4.3 g | CNN | CH6N2
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 1-(2,4-dibromo-5-(2-fluoro-4-nitrophenoxy)benzylidene)-2-methylhydrazine | 10.6 g, 76.7% yield | BrC1=C(C=NNC)C=C(C(=C1)Br)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C14H10Br2FN3O3
